US07071337B2
Trifluoro-methanesulfonic acid 2-(5-methoxy-benzoimidazol-1-yl)-quinolin-8-yl ester
2-(5-Methoxy-benzoimidazol-1-yl)-quinolin-8-ol E (13.9 g, 47.8 mmol) was dissolved in 100 mL of anhydrous THF under an atmosphere of dry N2. To this solution was added N-phenyl-bis(trifluoromethanesulfonimide) (20.3 g, 47.8 mmol) and then the solution was subsequently cooled to 0° C. To this solution was slowly added (1.31 9, 54.9 mmol) sodium hydride (60% in oil). After the addition was complete the reaction mixture was warmed to ambient temperature. After 30 minutes, 500 mg more of sodium hydride (60% in oil) was added followed by 3.50 g of N-phenyl-bis(trifluoromethanesulfonimide) and the reaction mixture was stirred at ambient temperature for 1 hour. The solvent was then removed under vacuum and the resulting residue was taken up in DCM. To this solution was slowly added 1.0 mL of water to decompose any unreacted sodium hydride. The mixture was subsequently partitioned between DCM and 0.1 N aqueous NaOH. The DCM layer was then washed again with 0.1 N aqueous NaOH, followed by brine and then dried over magnesium sulfate (MgSO4), filtered and concentrated under vacuum to give 20.7 g of crude F as a pink solid used immediately in the next reaction.

reactant | 2-(5-Methoxy-benzoimidazol-1-yl)-quinolin-8-ol | COC1=CC2=C(N(C=N2)C2=NC3=C(C=CC=C3C=C2)O)C=C1 | C17H13N3O2
reactant | N-phenyl-bis(trifluoromethanesulfonimide) | 47.8 mmol, 20.3 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
reactant | sodium hydride | 54.9 mmol | [H-].[Na+]
reactant | N-phenyl-bis(trifluoromethanesulfonimide) | 3.50 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | Trifluoro-methanesulfonic acid 2-(5-methoxy-benzoimidazol-1-yl)-quinolin-8-yl ester | COC1=CC2=C(N(C=N2)C2=NC3=C(C=CC=C3C=C2)OS(=O)(=O)C(F)(F)F)C=C1 | C18H12F3N3O4S
